data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_521896_1,[C:1](\[C:2]([H:16])([H:17])[H:18])(=[C:5](/[C:3]([N:4]([H:11])[H:12])(/[C:6](=[N:8]/[H:13])[H:15])[O:7][H:9])[H:14])[H:10]>>[C:1]([C:2]([H:16])([H:17])[H:18])([N:4]([H:11])[H:12])(/[C:5](=[C:3]([C:6](=[N:8]/[H:13])/[H:15])\[O:7][H:9])[H:14])[H:10],62.0986549999823
MR_454472_1,[C:1]1([C:2]([O:4][N:6]=[O:7])([H:9])[H:10])([H:8])[C:3]([H:11])([H:12])[O:5]1>>[C:1]1([C:2]([O:4][N:6]=[O:7])([H:9])[H:10])([H:8])[C:3]([H:11])([H:12])[O:5]1,60.61838250001003
MR_636943_0,[C@@:1]([C@@:2]1([N:6]([H:16])[H:17])/[C:3](=[N:9]\[H:18])[N:8]1[N:4]([H:12])[H:13])([N:5]([H:14])[H:15])([O:7][H:10])[H:11]>>[C:1]([C:3](/[C:2]([N:6]([H:16])[H:17])=[N:8]\[N:4]([H:12])[H:13])=[N:9]\[H:18])([N:5]([H:14])[H:15])([O:7][H:10])[H:11],47.98366999998564
MR_254282_1,[C:1]([C:2](=[C:3]([H:10])[H:11])/[N:4]=[N:5]\[H:6])([H:7])([H:8])[H:9]>>[C:1]([C:2]1=[N:4][N:5]([H:6])[C:3]1([H:10])[H:11])([H:7])([H:8])[H:9],42.89840999998376
MR_378765_0,[C:1]([C:2](/[N:8]=[C:6](\[C:4]([H:18])([H:19])[H:20])[H:14])([H:12])[H:13])([C:3]([H:15])([H:16])[H:17])([N:5]([O:7][H:9])[H:10])[H:11]>>[C:1]1([C:3]([H:15])([H:16])[H:17])([H:11])[C:2]([H:12])([H:13])[N:8]1[C:6]([C:4]([H:18])([H:19])[H:20])([N:5]([O:7][H:9])[H:10])[H:14],70.32329750001225
MR_234128_0,[C:1]([C:2]([H:11])([H:12])[H:16])([C:3]([H:13])([H:14])[H:15])(/[C:4]([O:6][H:9])=[N:7]/[O:5][H:8])[H:10]>>[C:1]([C:2]([H:11])([H:12])[H:16])([C:3]([H:13])([H:14])[H:15])=[C:4]([O:6][H:9])[N:7]([O:5][H:8])[H:10],67.84216249999872
MR_280039_2,[C:1]([N:7]([C:3](=[O:5])[O:6][H:9])[C:4]([C:2]([H:13])([H:14])[H:15])=[O:8])([H:10])([H:11])[H:12]>>[C:1](/[N:7]=[C:3](/[O:5][C:4]([C:2]([H:13])([H:14])[H:15])=[O:8])[O:6][H:9])([H:10])([H:11])[H:12],42.23388749998506
MR_295302_2,[C:1]([N:3]([N:5]([H:12])[H:13])[N:6]([H:10])[H:11])([C:4]([C:2]([H:16])([H:17])[H:18])=[C:8]([H:19])[H:20])([N:7]([H:14])[H:15])[H:9]>>[C:1]([N:3]([C:4]([C:2]([H:16])([H:17])[H:18])=[C:8]([H:19])[H:20])[N:6]([H:10])[H:11])([N:5]([H:12])[H:13])([N:7]([H:14])[H:15])[H:9],47.50363250002053
MR_606099_1,[C:1]([N:3]([N:4]([C:2]([H:17])([H:18])[H:19])[N:6]([H:9])[H:10])/[C:5]([N:7]([H:11])[H:12])=[N:8]/[H:13])([H:14])([H:15])[H:16]>>[C:1]([N:3]([N:4]([C:2]([H:17])([H:18])[H:19])/[C:5]([N:7]([H:11])[H:12])=[N:8]/[H:13])[N:6]([H:9])[H:10])([H:14])([H:15])[H:16],49.332167500005255
MR_348146_1,[C:1]1(/[C:6]([C:4]([H:18])([H:19])[H:20])=[C:7](/[C:5]([H:21])([H:22])[H:23])[N:9]([H:12])[H:13])([N:8]([H:10])[H:11])[C:2]([H:14])([H:15])[C:3]1([H:16])[H:17]>>[C:1](\[C:2]([C:3]([H:13])([H:16])[H:17])([H:14])[H:15])(=[C:6]([C:4]([H:18])([H:19])[H:20])\[C:7]([C:5]([H:21])([H:22])[H:23])=[N:9]\[H:12])[N:8]([H:10])[H:11],29.708360000006024
MR_563220_0,[C:1](/[C:3](=[C:2](/[N:4]([H:10])[H:11])[O:6][H:8])[N:5]([H:12])[H:13])([O:7][H:9])([H:14])[H:15]>>[C:1]1([H:14])([H:15])[C:3]([C:2]([N:4]([H:10])[H:11])([O:6][H:8])[H:9])([N:5]([H:12])[H:13])[O:7]1,54.79204499998872
MR_522748_1,[C:1](\[N:2]([C:5]([N:3]([C:6](=[O:9])[H:14])[H:10])=[O:8])[N:7]([H:12])[H:13])(=[N:4]/[H:11])[H:15]>>[C:1]1([H:14])([H:15])[N:2]([N:7]([H:12])[H:13])[C:5](=[O:8])[N:3]([H:10])[C:6](=[O:9])[N:4]1[H:11],69.14861750001748
MR_215521_0,[C:1]([N:3](/[C:4]([N:5]([H:10])[H:11])=[N:7]/[C:2]([H:14])([H:15])[H:16])[H:9])([O:6][H:8])([H:12])[H:13]>>[C:1]([O:6][H:8])([N:7]([C:2]([H:14])([H:15])[H:16])/[C:4](=[N:3]\[H:9])[N:5]([H:10])[H:11])([H:12])[H:13],70.33459249994806
MR_75087_1,[C:1]([N:6]([C:2]([H:13])([H:14])[H:15])[O:9][H:10])([C:7]([C:3]([H:16])([H:17])[H:18])=[C:8]([C:4]([H:19])([H:20])[H:21])[C:5]([H:22])([H:23])[H:24])([H:11])[H:12]>>[C:1]1([H:11])([H:12])[N:6]([C:2]([H:13])([H:14])[H:15])[C:7]1([C:3]([H:16])([H:17])[H:18])[C:8]([C:4]([H:19])([H:20])[H:21])([C:5]([H:22])([H:23])[H:24])[O:9][H:10],71.91212749999579
MR_448099_1,[N:1]([N:2]([O:6][H:9])[H:11])(/[C:3]([O:7][H:10])=[N:8]/[N:5]([H:14])[H:15])[N:4]([H:12])[H:13]>>[N:1](=[C:3](\[O:7][H:10])[N:8]([N:2]([O:6][H:9])[H:11])[N:5]([H:14])[H:15])\[N:4]([H:12])[H:13],42.39076249998135
MR_543673_1,[n:1]1([N:4]([H:10])[H:11])/[c:2](=[N:8]\[H:12])[o:6][c:5]([H:13])[c:3]1[O:7][H:9]>>[N:1](=[C:3](/[C:5]1([H:13])/[C:2](=[N:8]\[H:12])[O:6]1)[O:7][H:9])\[N:4]([H:10])[H:11],59.962017499990736
MR_201574_0,[C:1](/[C:2](=[C:4](/[C:3](=[C:5]([H:14])[H:15])[O:7][H:9])[H:10])[O:6][H:8])([H:11])([H:12])[H:13]>>[C:1]([C@:2]1([O:6][H:8])[C:4]([H:10])=[C:3]([O:7][H:9])[C:5]1([H:14])[H:15])([H:11])([H:12])[H:13],38.36848750000655
MR_356317_0,[C:1]([C:2]([O:7][H:9])=[O:8])([N:3]([H:11])[H:12])(/[C:5](=[C:6](\[N:4]([H:13])[H:14])[H:16])[H:15])[H:10]>>[C:1](\[N:3]([H:11])[H:12])(=[C:5](\[C:6]([C:2]([O:7][H:9])=[O:8])([N:4]([H:13])[H:14])[H:16])[H:15])[H:10],67.31945499999867
MR_582060_0,[C:1]([C:2]([N:7]([C:3]([H:14])([H:15])[H:16])[C:4]([H:17])([H:18])[H:19])([H:12])[H:13])([C:5]([H:20])([H:21])[H:22])([C:6]([H:23])([H:24])[H:25])[O:9][N:8]([H:10])[H:11]>>[C:1]([C:2]([O:9][N:8]([H:10])[H:11])([H:12])[H:13])([C:5]([H:20])([H:21])[H:22])([C:6]([H:23])([H:24])[H:25])[N:7]([C:3]([H:14])([H:15])[H:16])[C:4]([H:17])([H:18])[H:19],72.4806424999872
